US07612075B2
To a solution of 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-piperidin-4-ylmethyl-piperazin-2-one (20 mg, 0.047 mmol) in a mixture of 1,2-dichloroethane (1 mL) and THF (1 mL) is added trimethylsilyl isocyanate (0.006 mL, 0.05 mmol) and stirred 60 hours. The reaction is concentrated and purified by column chromatography (silica, 20% methanol/dichloromethane) to provide 4-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-piperidine-1-carboxylic acid amide. 1H NMR (300 MHz, CD3OD) d 8.09 (s, 1H), 8.02 (d, 2H), 7.53 (dd, 1H), 3.90 (d, 4H), 3.49 (d, 4H), 3.30-3.24 (m, 2H), 2.65 (dt, 2H), 1.49 (d, 2H), 1.12-0.97 (m, 2H); MS (Ion spray) 471 (M+H).

reactant | 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-piperidin-4-ylmethyl-piperazin-2-one | 0.047 mmol, 20 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCNCC2)=O)C1 | C18H22ClN3O3S2
reactant | trimethylsilyl isocyanate | 0.05 mmol, 0.006 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-piperidine-1-carboxylic acid amide | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCN(CC2)C(=O)N)=O)C1 | C19H23ClN4O4S2
